US07371743B2
(b) ethyl 3-chloro-4-[2-(hydroxycarbonyl-methoxy)-1-methyl-ethylamino]-benzoate
Prepared analogously to Example 1g from ethyl 4-[2-(tert.-butoxycarbonyl-methoxy)-1-methyl-ethylamino]-3-chloro-benzoate and trifluoroacetic acid in dichloromethane.

reactant | ethyl 4-[2-(tert.-butoxycarbonyl-methoxy)-1-methyl-ethylamino]-3-chloro-benzoate | C(C)(C)(C)OC(=O)COCC(C)NC1=C(C=C(C(=O)OCC)C=C1)Cl | C18H26ClNO5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 3-chloro-4-[2-(hydroxycarbonyl-methoxy)-1-methyl-ethylamino]-benzoate | ClC=1C=C(C(=O)OCC)C=CC1NC(COCC(=O)O)C | C14H18ClNO5
